US06573273B1
A solution of pyridine-3-isothiocyanate (0.136 g, 1.0 mmol) in chloroform (5 mL) was added at ambient temperature to a solution of 1-(4-aminobutyl)-2-phenyl-1H-imidazo[4,5-c]quinolin-4-amine (0.331 g, 1.0 mmol) in a mixture of chloroform (25 mL) and pyridine (5 mL). The reaction mixture was maintained at ambient temperature over the weekend. The reaction was quenched with ethanol and then concentrated under vacuum to provide an off-white solid. This material was purified by flash chromatography (silica gel, eluting with 10% methanol in dichloromethane). The pure fractions were combined and concentrated under vacuum to provide 0.2 g of N-[4-(4-amino-2-phenyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-N′-(3-pyridyl)thiourea as a white solid, m.p. 118-120° C. Mass spec M+1=468.3. Analysis: Calculated for C26H25N7S: %C, 66.79; %H, 5.39; %N, 20.97; Found: %C, 64.29; %H, 5.46; %N, 20.06.

reactant | pyridine-3-isothiocyanate | 1.0 mmol, 0.136 g | C1=CC(=CN=C1)N=C=S | C6H4N2S
reactant | 1-(4-aminobutyl)-2-phenyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.0 mmol, 0.331 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C2=CC=CC=C2 | C20H21N5
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-(4-amino-2-phenyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-N′-(3-pyridyl)thiourea | 0.2 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(=S)NC=2C=NC=CC2)C2=CC=CC=C2 | C26H25N7S
